US07544690B2
To a solution of cis-{2-[4-(4-dimethylamino-quinazolin-2-ylamino)-cyclohexyl]-ethyl}-carbamic acid benzyl ester (4.47 g, 10 mmol) in EtOH (20 mL) was added 1,4-cyclohexadiene (20 mL) and 200 mg of 10% Pd/C. The reaction mixture was stirred at ambient temperature for 18 hr, filtered through pad of celite, and concentrated. The residue was purified by column chromatography (silica gel, 5% to 15% 2 M NH3/MeOH in CH2Cl2) to give cis-N2-[4-(2-amino-ethyl)-cyclohexyl]-N4,N4-dimethyl-quinazoline-2,4-diamine (2.41 g, 77%) as a yellow oil.

reactant | cis-{2-[4-(4-dimethylamino-quinazolin-2-ylamino)-cyclohexyl]-ethyl}-carbamic acid benzyl ester | 10 mmol, 4.47 g | C(C1=CC=CC=C1)OC(NCC[C@@H]1CC[C@@H](CC1)NC1=NC2=CC=CC=C2C(=N1)N(C)C)=O | C26H33N5O2
reactant | 1,4-cyclohexadiene | 20 mL | C1=CCC=CC1 | C6H8
solvent | EtOH | 20 mL | CCO | C2H6O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | cis-N2-[4-(2-amino-ethyl)-cyclohexyl]-N4,N4-dimethyl-quinazoline-2,4-diamine | 2.41 g, 77% | NCC[C@H]1CC[C@H](CC1)NC1=NC2=CC=CC=C2C(=N1)N(C)C | C18H27N5
